US04990523
2-(Acetyloxy)-5-(aminosulfonyl)benzoic acid hemihydrate
5-(Aminosulfonyl)-2-hydroxybenzoic acid (9.35 g, 0.043 mole) was suspended in 50 ml acetonitrile. Pyridine (4.04 ml, 0.05 mole) was added with stirring. The resulting solution was chilled in an ice bath. Acetylchloride (3.63 ml, 0.05 mole) was added dropwise in two minutes and the reaction mixture was stirred at room temperature for four hours. To the reaction mixture was added about 50 ml each of ethyl acetate and sodium chloride solution. The organic layer was separated and extracted once more with sodium chloride solution. The aqueous layers were back extracted with acetonitrile-ethyl acetate. The organic layers were combined, dried over sodium sulfate, filtered, and concentrated to a white solid. The solid was triturated in ethyl acetate and isopropyl ether with small amount of acetonitrile overnight. The solid was collected, rinsed and dried under vacuum pump pressure to give 5.03 g of title compound, mp 179°-181° C.

reactant | 5-(Aminosulfonyl)-2-hydroxybenzoic acid | 0.043 mole, 9.35 g | NS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C7H7NO5S
reactant | Pyridine | 0.05 mole, 4.04 ml | N1=CC=CC=C1 | C5H5N
reactant | Acetylchloride | 0.05 mole, 3.63 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ethyl acetate | about 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(Acetyloxy)-5-(aminosulfonyl)benzoic acid hemihydrate | 5.03 g | O.C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N.C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N | InChI=1S/2C9H9NO6S.H2O/c2*1-5(11)16-8-3-2-6(17(10,14)15)4-7(8)9(12)13;/h2*2-4H,1H3,(H,12,13)(H2,10,14,15);1H2
